US03957783
A mixture of 1.5 g of 2-methylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene, 1.5 g of ethyl carbamate and 0.11 g of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is extracted with chloroform. The chloroform extracts are combined, washed with water, dried over sodium sulfate and concentrated to dryness under reduced pressure and residue is recrystallized from ethanol to give 1-methyl-4-phenyl-1,2,5,6,7,8-hexahydrobenzothieno[ 2,3-d]pyrimidin-2-one as crystals having a melting point of 215° - 216°C.

reactant | 2-methylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 1.5 g | CNC1=C(C2=C(S1)CCCC2)C(C2=CC=CC=C2)=O | C16H17NOS
reactant | ethyl carbamate | 1.5 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 0.11 g | [Cl-].[Zn+2].[Cl-]
product | 1-methyl-4-phenyl-1,2,5,6,7,8-hexahydrobenzothieno[ 2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC1=C2CCCC1)C1=CC=CC=C1)=O | C17H16N2OS
